US05650422
By the method of part F of Example 45 condensation of 2-chloromethyl-4-ethoxy-7-(t-butoxycarbonylmethoxy)saccharin (1.42 g) and 1-phenyltetrazol-5-thiol sodium salt (0.70 g initially and a small amount more after 6 hours reaction time, total reaction time 8 hours) and isolation of the product (1.20 g) by extraction with dichloromethane and purification of part (0.42 g) thereof by column chromatography on silica gel using dichloromethane-acetone (up to 98:2) as eluant afforded 2-(1-phenyltetrazol-5-yl)thiomethyl-4-ethoxy-7-(t-butoxycarbonylmethoxy)saccharin, 300 mg, 71% yield, mp 110°-112° C.

reactant | 2-chloromethyl-4-ethoxy-7-(t-butoxycarbonylmethoxy)saccharin | 1.42 g | ClCN1S(=O)(=O)C2=C(C=CC(=C2C1=O)OCC)OCC(=O)OC(C)(C)C | C16H20ClNO7S
reactant | 1-phenyltetrazol-5-thiol sodium salt | [Na].C1(=CC=CC=C1)N1N=NN=C1S
product | 2-(1-phenyltetrazol-5-yl)thiomethyl-4-ethoxy-7-(t-butoxycarbonylmethoxy)saccharin | 71% yield | C1(=CC=CC=C1)N1N=NN=C1SCN1S(=O)(=O)C2=C(C=CC(=C2C1=O)OCC)OCC(=O)OC(C)(C)C | C23H25N5O7S2
